US08071592B2
(c) 1-{2-[(3S)-3-(Aminomethyl)-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone
To a solution of phenylmethyl ({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)carbamate (820 mg, 1.94 mmol) in MeOH (30 mL) was added 5% palladium on carbon (200 mg, 50% by weight with water). The mixture was hydrogenated at 15 psi for 2.5 h, filtered through a pad of Celite®, and concentrated to give a clear oil which darkened and solidified on standing (555 mg, 99%).

reactant | phenylmethyl ({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)carbamate | 1.94 mmol, 820 mg | FC1=CC=C2C=CC(N(C2=C1)CCN1C[C@@H](CC1)CNC(OCC1=CC=CC=C1)=O)=O | C24H26FN3O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 1-{2-[(3S)-3-(Aminomethyl)-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | NC[C@H]1CN(CC1)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O
